US04093717
Liriodenine methiodide was prepared from the liriodenine isolated in accordance with Example 1. A 2.71 gm sample of liriodenine was reflexed in 30 ml of chloroform and then 10 ml of iodomethane was added. After 24 hours at reflux, the solution was cooled, excess iodomethane removed, and the red crystals filtered. Crystallization from methanol yielded 2.24 gm liriodenine methiodide, mp 235 d.

reactant | liriodenine | C=1C=CC2=C(C1)C3=C4C(C=CN=C4C2=O)=CC5=C3OCO5 | C17H9NO3
reactant | iodomethane | 10 ml | IC | CH3I
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | liriodenine methiodide | 2.24 gm | C[N+]1=C2C3=C(C4=CC=CC=C4C2=O)C5=C(C=C3C=C1)OCO5.[I-] | InChI=1S/C18H12NO3.HI/c1-19-7-6-10-8-13-18(22-9-21-13)15-11-4-2-3-5-12(11)17(20)16(19)14(10)15;/h2-8H,9H2,1H3;1H/q+1;/p-1
